US06503907B2
In analogy to example 4.6, Diethyl-[4-(1H-indol-5-yloxy)-butyl]-amine and 2-fluorobiphenyl were converted to yield [4-(1-Biphenyl-2-yl-1H-indol-5-yloxy)-butyl]-diethyl-amine as light yellow oil, MS: 412 (M).

reactant | Diethyl-[4-(1H-indol-5-yloxy)-butyl]-amine | C(C)N(CCCCOC=1C=C2C=CNC2=CC1)CC | C16H24N2O
reactant | 2-fluorobiphenyl | FC1=C(C=CC=C1)C1=CC=CC=C1 | C12H9F
product | [4-(1-Biphenyl-2-yl-1H-indol-5-yloxy)-butyl]-diethyl-amine | C1(=C(C=CC=C1)N1C=CC2=CC(=CC=C12)OCCCCN(CC)CC)C1=CC=CC=C1 | C28H32N2O
